*Title: T1 Circuit

*  Netlist

.options savecurrents
 
  .INCLUDE ../mat/datafrom2.txt
*The circuit components are defined below

 
Vs   n1  0  0.0 ac 1.0 sin(0 1 1k)

Vab   0  na   0

R1   n1  n2   1.04362094375k

R2   n3  n2   2.01060713289k

R3   n2  n5   3.1012701442k

R4   n5  0   4.18822801798k 

R5   n6  n5   3.09414786857k 

R6   na  n7   2.02739936235k

R7   n7  n8   1.0022809037k 

Hd   n5  n8   Vab  8.29575903566k

Gb   n6  n3   n2  n5  7.2492497599m 

C1   n6  n8    1.03087754949u

.control



*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 0.1 1MEG

*.param pi=3.141593

set units=degrees

hardcopy acm.ps db(v(n6)) db(v(n1))
echo acm_FIG

set units=degrees

hardcopy acp.ps {phase(v(n6)*(180/pi))} {phase(v(n1)*(180/pi))}
echo acp_FIG




quit
.endc
.end





